US07115623B2
A suspension of 2-bromonicotinaldehyde (2.54 g, 13.6 mmol; synthesized according to SYNTHETIC COMMUNICATIONS, 23(19): 2727–2730 (1993)), 3-nitroaniline (2.26 g, 1.2 eq.), palladium acetate (123 mg, 0.04 eq.), 1,3-bis(diphenyl-phosphino)propane (341 mg, 0.06 eq.), and cesium carbonate (6.22 g, 1.4 eq.) in toluene (30 ml) was stirred at 100° C. for 4 hours under nitrogen atmosphere, and cooled to room temperature, followed by addition of 10% hydrochloric acid (50 ml) and dichloromethane. The mixture was stirred for 1 hr, then diluted with water (50 ml), and extracted with dichloromethane. The extract was dried, and then evaporated. To the residue was added hexane to precipitate crystals, filtered off, washed with hexane, and dried under reduced pressure to afford 2-(3-nitrophenylamino)-nicotinaldehyde as a yellow powder (2.75 g, 74%).

reactant | 2-bromonicotinaldehyde | 13.6 mmol, 2.54 g | BrC1=C(C=O)C=CC=N1 | C6H4BrNO
reactant | 3-nitroaniline | 2.26 g, 1.2 eq. | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | cesium carbonate | 6.22 g, 1.4 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 ml | O | H2O
catalyst | palladium acetate | 123 mg, 0.04 eq. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,3-bis(diphenyl-phosphino)propane | 341 mg, 0.06 eq. | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(3-nitrophenylamino)-nicotinaldehyde | 2.75 g, 74% | [N+](=O)([O-])C=1C=C(C=CC1)NC1=C(C=O)C=CC=N1 | C12H9N3O3
